US06207671B1
2-Cyclopentyl-4-(4-fluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-5-ol
110 g of 5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(4-fluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinoline were stirred at 40° C. for 2 hours in a mixture of 913 ml of 5 N hydrochloric acid, 1364 ml of methanol and 902 ml of tetrahydrofuran. Working up was carried out by pouring into saturated aqueous sodium hydrogencarbonate solution and extraction with ethyl acetate. The organic phases were dried after fresh washing with saturated aqueous sodium hydrogencarbonate solution. After distilling off the solvent in vacuo, the residue was recrystallized from cyclohexane. After drying in an oil-pump vacuum, a total of 71.1 g of colorless crystals having a purity of 99.4% according to HPLC (e.e. 99.5%) resulted. By chromatography on silica gel, it was possible from the mother liquor of the crystallization, using petroleum ether/ethyl acetate 7:1, to obtain a further 10.8 g of the same quality.

reactant | 5-(tert-butyldimethylsilanyloxy)-2-cyclopentyl-4-(4-fluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinoline | 110 g | [Si](C)(C)(C(C)(C)C)OC1C=2C(=C(C(=NC2CC(C1)(C)C)C1CCCC1)C(C1=CC=C(C=C1)C(F)(F)F)F)C1=CC=C(C=C1)F | C36H44F5NOSi
reactant | methanol | 1364 ml | CO | CH4O
reactant | tetrahydrofuran | 902 ml | O1CCCC1 | C4H8O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 5 N, 913 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Cyclopentyl-4-(4-fluorophenyl)-3-[fluoro-(4-trifluoromethylphenyl)-methyl]-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-5-ol | C1(CCCC1)C1=NC=2CC(CC(C2C(=C1C(C1=CC=C(C=C1)C(F)(F)F)F)C1=CC=C(C=C1)F)O)(C)C | C30H30F5NO
